US07981318B2
0.12 g (0.8 mmol) of 2,6-diaminopurine was weighed and placed in a two-neck flask and the atmosphere in the flask was replaced with argon. The following materials were added thereinto: 3.0 ml of dimethyl sulfoxide, 0.8 ml of a 3.0 mol/l dimethyl sulfoxide solution of trifluoromethyl iodide, 0.25 ml of a 1.0 mol/l aqueous solution of iron(II) sulfate and 0.15 ml of a 30% hydrogen peroxide aqueous solution, and the mixture was stirred for 20 minutes. During the stirring, the temperature of the reaction system rose up in the range of from 40° C. to 50° C. Thereafter, the resulting solution was cooled to room temperature. Formation of 2,6-diamino-8-trifluoromethylpurine (19F-NMR yield: 40%) was confirmed by 19F-NMR with 2,2,2-trifluoroethanol as an internal standard. Water was added to the resulting solution, sodium hydrogen carbonate was added thereto to neutralize, and the desired product was extracted with ethyl acetate. The extract was passed through column chromatography and concentrated under reduced pressure to obtain 2,6-diamino-8-trifluoromethylpurine as a white solid (0.043 g, yield: 20%).

reactant | 2,6-diaminopurine | 0.8 mmol, 0.12 g | NC1=NC(=C2NC=NC2=N1)N | C5H6N6
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | OO | H2O2
catalyst | iron(II) sulfate | S(=O)(=O)([O-])[O-].[Fe+2]
solvent | dimethyl sulfoxide | 3.0 mol/l | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3.0 ml | CS(=O)C | C2H6OS
product | 2,6-diamino-8-trifluoromethylpurine | yield: 40% | NC1=NC(=C2NC(=NC2=N1)C(F)(F)F)N | C6H5F3N6
